US09029536B2
1-Ethyl-3-[1-(1-methyl-1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-1H-pyrazolo[4,3-b]pyridine
A mixture of 3-[(1-(1H-benzo[d]imidazol-2-yl)-1H-pyrazol-4-yl]-1-ethyl-1H-pyrazolo[4,3-b]pyridine (8 mg), MeI (2.278 μL) and Cs2CO3 (15.83 mg) in DMF (2 mL) was stirred at room temperature for 3 h, treated with water, and extracted with AcOEt. The organic layer was dried over MgSO4 and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (AcOEt/hexane). Crystallization from AcOEt/hexane gave the title compound (4.80 mg).

reactant | (1-(1H-benzo[d]imidazol-2-yl)-1H-pyrazol-4-yl]-1-ethyl-1H-pyrazolo[4,3-b]pyridine | 8 mg | N1C(=NC2=C1C=CC=C2)N2N=CC(=C2)C2=NN(C=1C2=NC=CC1)CC | C18H15N7
reactant | MeI | 2.278 μL | CI | CH3I
reactant | Cs2CO3 | 15.83 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-Ethyl-3-[1-(1-methyl-1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-1H-pyrazolo[4,3-b]pyridine | 4.80 mg | C(C)N1N=C(C2=NC=CC=C21)C=2C=NN(C2)C2=NC1=C(N2C)C=CC=C1 | C19H17N7
